US04659727
A solution of 1,1-bis(4-chlorophenylsulphonyl)-2-ethoxyethene (1.26 g) and 2-(trifluoromethyl)aniline (0.48 g) in dimethylacetamide (20 ml) was heated at reflux for 2 hours, and then it was cooled and poured onto ice (50 g). The resulting white precipitate was filtered off, washed with water and recrystallised from ethanol, to give 1,1-bis(4-chlorophenylsulphonyl)-2-[2-(trifluoromethyl)anilino]ethene (0.8 g), m.p. 169°-171° C.

reactant | 1,1-bis(4-chlorophenylsulphonyl)-2-ethoxyethene | 1.26 g | ClC1=CC=C(C=C1)S(=O)(=O)C(=COCC)S(=O)(=O)C1=CC=C(C=C1)Cl | C16H14Cl2O5S2
reactant | 2-(trifluoromethyl)aniline | 0.48 g | FC(C1=C(N)C=CC=C1)(F)F | C7H6F3N
solvent | dimethylacetamide | 20 ml | CC(=O)N(C)C | C4H9NO
product | 1,1-bis(4-chlorophenylsulphonyl)-2-[2-(trifluoromethyl)anilino]ethene | 0.8 g | ClC1=CC=C(C=C1)S(=O)(=O)C(=CNC1=C(C=CC=C1)C(F)(F)F)S(=O)(=O)C1=CC=C(C=C1)Cl | C21H14Cl2F3NO4S2
